**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 1
* SIMULATION TYPE: ac_point_dc_list
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 23_1 *********************
v_gs_ac_23_1 g_23_1 g_ac_23_1 DC 0 AC 1
e_gs_23_1 g_ac_23_1 0 v_sweep 0 1
v_ds_23_1 d_23_1 0 0.0
v_s_23_1 s_23_1 0 0
v_bs_23_1 b_23_1 0 1.0
x_23_1 d_23_1 g_23_1 s_23_1 b_23_1 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 23_2 *********************
v_gs_ac_23_2 g_23_2 g_ac_23_2 DC 0 AC 1
e_gs_23_2 g_ac_23_2 0 v_sweep 0 1
v_ds_23_2 d_23_2 0 0.0
v_s_23_2 s_23_2 0 0
v_bs_23_2 b_23_2 0 -1.0
x_23_2 d_23_2 g_23_2 s_23_2 b_23_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 0.5571344887350722
alterparam dut a1 = 0.01898985665341599
alterparam dut a2 = 0.5746437836387408
alterparam dut acde = 1.2447050338676497
alterparam dut ags = 1.4391292427657758
alterparam dut bin_lketa = 0.7305155872609798
alterparam dut bin_pketa = 0.32620837552686255
alterparam dut bin_ppclm = 0.14734887839880895
alterparam dut bin_prdsw = 0.598889427390227
alterparam dut bin_pvsat = 0.9570844691704307
alterparam dut bin_wk3 = 0.5357283700117055
alterparam dut bin_wk3b = 0.7839327595638652
alterparam dut bin_wketa = 0.511017706623237
alterparam dut cf = 3.2763241668875894e-11
alterparam dut cgdl = 4.9951888860495246e-09
alterparam dut cgdo = 3.6251218675356017e-10
alterparam dut ckappas = 6.808403907688843
alterparam dut clc = 1.40285735452664e-07
alterparam dut cle = 0.34532760078908276
alterparam dut dlc = 3.015702736996331e-08
alterparam dut drout = 0.4416053068085337
alterparam dut dsub = 0.5042544969754414
alterparam dut dvt0 = 0.7913112465679184
alterparam dut dvt0w = 9.934962527062416
alterparam dut dvt1 = 0.756447494960122
alterparam dut dvt1w = 1792.1025493440727
alterparam dut dvt2 = 0.040324991957142176
alterparam dut dvt2w = 1*-0.020505639894774566
alterparam dut dwg = 9.5407808234424e-08
alterparam dut eta0 = 0.6821568031142614
alterparam dut etab = 1*-0.1341595909047224
alterparam dut k1 = 0.26491166585664266
alterparam dut k2 = 0.04884548284126143
alterparam dut k3 = 97.75780036903134
alterparam dut k3b = 1*-14.671296818643773
alterparam dut keta = 1*-0.055144753904246974
alterparam dut lint = 1*-5.651882477907524e-08
alterparam dut ll = 8.288228419302601e-14
alterparam dut lwl = 1*-5.662823202029951e-20
alterparam dut moin = 18.2786309067479
alterparam dut ndep = 3.971509747118658e+18
alterparam dut nfactor = 1.4185570729789938
alterparam dut ngate = 6.5387781500366545e+19
alterparam dut noff = 3.6020520262914255
alterparam dut pclm = 1.7559757904006415e-07
alterparam dut pdiblc1 = 5.533157815705593e-05
alterparam dut pdiblc2 = 0.0030390383161657975
alterparam dut pdiblcb = 1*-0.23073168745639872
alterparam dut pvag = 1.1303393608034478
alterparam dut rdsw = 315.8725253194124
alterparam dut toxp = 7.302189787874054e-09
alterparam dut u0 = 549.2227744502289
alterparam dut ua = 2.098970112608194e-09
alterparam dut ub = 2.717438983837538e-18
alterparam dut uc = 2.243111794840178e-09
alterparam dut voff = 1*-0.13423006789454225
alterparam dut voffcv = 1*-0.23755421403664517
alterparam dut voffl = 1*-5.448968568096133e-08
alterparam dut vsat = 8459.85024269791
alterparam dut vth0 = 0.990451106770561
alterparam dut w0 = 3.0933283676647275e-06
alterparam dut wint = 1*-3.113723866803482e-08
alterparam dut ww = 1*-8.619283034818104e-14
alterparam dut wwl = 1*-2.7866689240493176e-20
alterparam dut xpart = 0.9757244304328573
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_23_1) i(v_ds_23_2) i(v_s_23_2) i(v_bs_23_2) i(v_ds_23_1) i(v_bs_23_1)

** Write the header of the results file.
echo "vgs,cgg_23_1,cgg_23_2" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_00_01/simulation_files/ac_point_dc_list_1.csv

** Start the simulation loop.
set values_list = ( -2.0 -1.9 -1.85 -1.8 -1.75 -1.7 -1.65 -1.6 -1.55 -1.5 -1.45 -1.4 -1.35 -1.3 -1.25 -1.2 -1.15 -1.1 -1.05 -1.0 -0.95 -0.9 -0.85 -0.8 -0.75 -0.7 -0.65 -0.6 -0.55 -0.5 -0.45 -0.4 -0.35 -0.3 -0.25 -0.2 -0.15 -0.1 -0.05 1.20737e-15 0.05 0.1 0.15 0.2 0.25 0.3 0.35 0.4 0.45 0.5 0.55 0.6 0.65 0.7 0.75 0.8 0.85 0.9 0.95 1.0 1.05 1.1 1.15 1.2 1.25 1.3 1.35 1.4 1.45 1.5 1.55 1.6 1.65 1.7 1.75 1.8 1.85 1.9 1.95 2.0 )
foreach val $values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgg_23_1 = (abs(imag(i(v_s_23_1))) + abs(imag(i(v_ds_23_1))) + abs(imag(i(v_bs_23_1))))/2*pi*10000.0
    let cgg_23_2 = (abs(imag(i(v_s_23_2))) + abs(imag(i(v_ds_23_2))) + abs(imag(i(v_bs_23_2))))/2*pi*10000.0

    echo "$val,$&cgg_23_1,$&cgg_23_2" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_00_01/simulation_files/ac_point_dc_list_1.csv
end

.endc
********** End of control section **********

.end